US08541411B2
a) methyl 2,3-diamino-5-(4-morpholinyl)benzoate
A mixture of methyl 3-amino-5-morpholino-2-nitrobenzoate, prepared as described in Example 26, step c (19.2 g, 68.3 mmol) and Pd/C (1.9 g) in MeOH (500 mL) in an autoclave under an atmosphere of H2 (4 atm) were stirred at room temperature for 3 h, When TLC analysis indicated complete consumption of starting material, the mixture was filtered and the filtrate was concentrated in-vacuo to afford the desired product as a brown solid (13.9 g, 80.1%). 1H NMR (300 MHz, DMSO-d6): δ ppm 6.62 (d, 1H, J=2.4 Hz), 6.54 (d, 1H, J=2.4 Hz), 5.84 (s, 2H), 4.75 (s, 2H), 3.76 (s, 3H), 3.70 (t, 4H, J=4.8 Hz), 2.85 (t, 4H, 4.8 Hz). LC-MS: m/e=252.1 [M+1]+.

reactant | methyl 3-amino-5-morpholino-2-nitrobenzoate | NC=1C(=C(C(=O)OC)C=C(C1)N1CCOCC1)[N+](=O)[O-] | C12H15N3O5
solvent | MeOH | 500 mL | CO | CH4O
catalyst | Pd/C | 1.9 g | [Pd] | Pd
product | methyl 2,3-diamino-5-(4-morpholinyl)benzoate | 13.9 g, 80.1% | NC1=C(C(=O)OC)C=C(C=C1N)N1CCOCC1 | C12H17N3O3
